US07579469B2
Synthesis of 1-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-cinnolin-4-one
To a suspension of 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane (216 mg) and cinnolin-4-ol (V. G. Chapoulaud et al., Tetrahedron, 2000, 56, pp. 5499-5507) (216 mg) in anhydrous ethanol (1.2 mL) was added sodium ethoxide (21 wt. % solution in ethanol, 276 μL). After heating at 85° C. for 16 hours, the reaction mixture was diluted with ethyl acetate, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by preparative TLC (eluted with 40% ethyl acetate-hexanes) to give the title compound as a pale yellow solid (26 mg), m.p. 122° C.-123° C.

reactant | 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane | 216 mg | FC=1C=CC(=C(C1)C(CC1(OC1)C(F)(F)F)(C)C)OC | C14H16F4O2
reactant | cinnolin-4-ol | N1=NC=C(C2=CC=CC=C12)O | C8H6N2O
reactant | sodium ethoxide | 276 μL | [O-]CC.[Na+]
solvent | ethanol | 1.2 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-cinnolin-4-one | 26 mg | FC=1C=CC(=C(C1)C(CC(CN1N=CC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C)OC | C22H22F4N2O3
